US04504305
EXAMPLE 6: 2-[1-(ethoxyimino)propyl]-5-{4-[3-(ethyl)thioureido]phenyl}-3-hydroxy-2-cyclohexen-1-one
Into 10 ml of chloroform was dissolved 1.4 g of 5-{4-[3-(ethyl)thioureido]phenyl}-3-hydroxy-2-propionyl-2-cyclohexen-1-one and to the solution was added 1.0 g of ethoxyamine. The mixture was kept for 15 hours at room temperature and the reacting mixture was washed with a dilute hydrochloric acid solution and water. The solution was dried with anhydrous magnesium sulfate and the chloroform was distilled off from it under reduced pressure and 1.4 g of the desired compound was obtained. It was in the form of colorless crystals having a decomposition point of 116°-118° C.

reactant | 5-{4-[3-(ethyl)thioureido]phenyl}-3-hydroxy-2-propionyl-2-cyclohexen-1-one | 1.4 g | C(C)NC(NC1=CC=C(C=C1)C1CC(=C(C(C1)=O)C(CC)=O)O)=S | C18H22N2O3S
reactant | ethoxyamine | 1.0 g | C(C)ON | C2H7NO
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-[1-(ethoxyimino)propyl]-5-{4-[3-(ethyl)thioureido]phenyl}-3-hydroxy-2-cyclohexen-1-one | 1.4 g | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)NC(=S)NCC)=O | C20H27N3O3S
